US07223791B2
To a mixture of 3-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzaldehyde (0.800 g), sodium dihydrogen phosphate (0.300 g), 2-methyl-2-butene (1.2 ml), t-butanol (10 ml), tetrahydrofuran (20 ml) and water (10 ml) was added sodium chlorite (0.570 g) at 0° C., and the mixture was stirred for 2 hrs. To the mixture was added aqueous sodium sulfite solution, and the mixture was stirred at room temperature for 30 min., acidified by adding 1 M hydrochloric acid, and extracted with ethyl acetate-tetrahydrofuran. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give 3-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid (0.730 g, yield 87%). Recrystallization from hexane-tetrahydrofuran gave colorless prism crystals. melting point: 239–240° C.

reactant | 3-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzaldehyde | 0.800 g | FC(C1=CC=C(C=C1)C1=NN=C(O1)C=1C=C(C=O)C=CC1)(F)F | C16H9F3N2O2
reactant | sodium dihydrogen phosphate | 0.300 g | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 1.2 ml | CC(C)=CC | C5H10
reactant | sodium chlorite | 0.570 g | Cl(=O)[O-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | t-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | 3-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid | 0.730 g, yield 87% | FC(C1=CC=C(C=C1)C1=NN=C(O1)C=1C=C(C(=O)O)C=CC1)(F)F | C16H9F3N2O3
